US08202858B2
(E)-3-[4-(2,3,4,5-Tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-acrylic Acid Methyl Ester
WSCD (1.17 g, 6.16 mmol) was added to a solution of 4-((E)-2-methoxycarbonyl-vinyl)-benzoic acid from Example E65.1 (740 mg, 3.59 mmol), 2,3,4,5-tetrahydro-1H-benzo[b]azepine (445 mg, 3.02 mmol) and DMAP (370 mg, 3.02 mmol) in dichloromethane (40 ml) and triethylamine (0.7 ml, 5.02 mmol). The mixture was heated at reflux for 42 h then solvents were concentrated in vacuo. The residue was dissolved in EtOAc, washed with 1M KHSO4 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 30% EtOAc:70% pet. ether) to yield the title compound (484 mg, 48%).

reactant | 4-((E)-2-methoxycarbonyl-vinyl)-benzoic acid | COC(=O)/C=C/C1=CC=C(C(=O)O)C=C1 | C11H10O4
reactant | 2,3,4,5-tetrahydro-1H-benzo[b]azepine | 3.02 mmol, 445 mg | N1C2=C(CCCC1)C=CC=C2 | C10H13N
reactant | triethylamine | 5.02 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 3.02 mmol, 370 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (E)-3-[4-(2,3,4,5-Tetrahydro-benzo[b]azepine-1-carbonyl)-phenyl]-acrylic Acid Methyl Ester | 484 mg, 48% | COC(\C=C\C1=CC=C(C=C1)C(=O)N1C2=C(CCCC1)C=CC=C2)=O | C21H21NO3
